US09382188B2
F) (6-(((tert-butyldiphenylsilyl)oxy)methyl)pyrimidin-4-yl)(cyclopropyl)methanone
Under a nitrogen atmosphere, to a solution of 6-(((tert-butyldiphenylsilyl)oxy)methyl)pyrimidine-4-carbonitrile (11.3 g) in THF (100 mL) was added 0.70 M cyclopropylmagnesium bromide (86 mL) at 0° C., and the mixture was directly stirred for 30 min. To the reaction mixture was added 1N hydrochloric acid, and the mixture was extracted with ethyl acetate. The extract was washed with saturated aqueous sodium hydrogen carbonate solution and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to give a crude product of the title compound as a brown oil. This compound was used for the next step without further purification.

reactant | 6-(((tert-butyldiphenylsilyl)oxy)methyl)pyrimidine-4-carbonitrile | 11.3 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC1=CC(=NC=N1)C#N | C22H23N3OSi
reactant | cyclopropylmagnesium bromide | 0.70 M, 86 mL | C1(CC1)[Mg]Br
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | THF | 100 mL | C1CCOC1 | C4H8O
product | (6-(((tert-butyldiphenylsilyl)oxy)methyl)pyrimidin-4-yl)(cyclopropyl)methanone | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC1=CC(=NC=N1)C(=O)C1CC1 | C25H28N2O2Si
